US07348017B2
Methyl 4-hydroxyphenylacetate (6.00 g, 36.11 mmol) was dissolved in acetone (90 ml), and then potassium carbonate (9.98 g, 72.22 mmol) and geranyl bromide(14.34 ml, 72.22 mmol) were added thereto. After being refluxed for 4 hours, the mixture, with water added thereto, was extracted with ethyl acetate. The organic layer was washed with saturated ammonium chloride water and saturated brine successively, and dried over MgSO4. The solvent was evaporated out and the obtained residue was purified by silica gel column chromatography (5% ethyl acetate/hexane), to give methyl 2-{4-[(3,7-dimethyl-2,6-octadienyl)oxy]phenyl}acetate (10.07 g, 92%).

reactant | Methyl 4-hydroxyphenylacetate | 36.11 mmol, 6.00 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 72.22 mmol, 9.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | geranyl bromide | 72.22 mmol, 14.34 ml | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | water | O | H2O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | methyl 2-{4-[(3,7-dimethyl-2,6-octadienyl)oxy]phenyl}acetate | 10.07 g, 92% | CC(=CCOC1=CC=C(C=C1)CC(=O)OC)CCC=C(C)C | C19H26O3
